Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfur
 
Attending: ___.
 
Chief Complaint:
Possible hematemesis
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
The patient is a ___ year old male with a history of 
schizophrenia who presents from home after an episode of 
vomiting with red blood in it. He endorses about one year of 
intermittent right upper quadrant/epigastric abdominal pain. It 
has improved since changing his diet to vegetarian. He was seen 
by ___ for these symptoms in ___ who 
recommended endoscopy but patient did not follow up. Over the 
past several weeks reports worsening RUQ abdominal pain. 
Yesterday had nausea and vomiting. One episode of blood in vomit 
while at a restaurant. Patient attributes to not knowing there 
was chicken in the soup he was eating. He denies NSAID use. Very 
infrequent ETOH use. Denies weight loss.
.
In the ED, initial vs were: T 97.6 P ___ BP 109/67 R 22 O2 sat 
100% on RA. Labs were remarkable for Hct of 32, MCV 75 (baseline 
Hct high 30's to mid 40's), normal LFT's and normal lipase, Cr 
0.9, although BUN 35. Imaging with RUQ US notable for fatty 
liver only. CT Abd/Pelvis unremarkable (prelim read). Patient 
was given IVF NS x 2 Liters and Protonix 40mg IV x 1. Vitals on 
Transfer: 98.6, 73, 90/55, 16, 100% on RA.
 
Past Medical History:
PSYCHIATRIC HISTORY:
- Dx: schizoaffective (originally diagnosed with bipolar d/i in
___ then later told schizoaffective)
- Hospitalizations: multiple in past > ___ yrs including at ___
in ___ and twice in ___ none in past ___ yrs per father
- SA/SIB: remote h/o walking on train tracks in ? SA ___
- Violence: ___
- Treaters: psychiatrist is Dr. ___, in ___ 
- ___ Trials: parents report pt is very sensitive to medications
and that very low doses typically help, say he has responded 
best
to 2.5mg Abilify, though often will c/o headache afterwards and
is med non-compliant unless his parents spend sig time pushing
him to take meds. 

PAST MEDICAL HISTORY: none per parents, say he often c/o
headaches. 

 
Social History:
ocial History: B/R greater ___ area, has an older sister, who 
currently lives in ___. Parents are married and primary 
caretakers for
patient who lives with them and has been living with them for
years. Their lives have been greatly limited by inability to
travel far or for extended periods of time as no one can care 
for
pt well. Parents report he is a "good" and "smart" kid, saying 
he
has never caused trouble and did well in school. Graduated from
___, magna cum ___ with degree in ___. He
worked as a ___ until ___ years ago when he had 
to
stop ___ mental illness. In recent years pt has converted to
orthodox Jewish faith, which his parents say has been a source 
of
strength for him. (They are not orthodox.) He currently lives in
___ with his parents and has been living with them x years
SUBSTANCE ABUSE HISTORY: denied by pt and parents
 
Family History:
Possible history of schizophrenia in mother's brother
 
Physical ___:
Vitals: T 97.7 P 71 BP 109/65 R 16 O2 sat 100%
General: No acute distress, thin appearing
HEENT: moist membrane, anicteric
Neck: no cervical LAD appreciated
CV: S1, S2 regular rhythm, normal rate
Lungs: CTA bilaterally, unlabored respirations
Abdomen: soft, non-tender, no rebound or guarding, + BS
GU: no foley
Ext: no edema
Neuro: alert, tongue midline, speech fluent
 
Pertinent Results:
___ 04:15PM BLOOD WBC-6.7 RBC-4.38* Hgb-10.8* Hct-32.8* 
MCV-75* MCH-24.7* MCHC-33.0 RDW-13.3 Plt ___
___ 06:00AM BLOOD WBC-8.4# RBC-4.11* Hgb-10.6* Hct-30.6* 
MCV-75* MCH-25.8* MCHC-34.7 RDW-14.1 Plt ___
___ 10:30AM BLOOD Hct-28.2*
___ 04:15PM BLOOD ___ PTT-28.8 ___
___ 04:15PM BLOOD Plt ___
___ 04:15PM BLOOD Glucose-120* UreaN-35* Creat-0.9 Na-136 
K-4.2 Cl-102 HCO3-27 AnGap-11
___ 08:30AM BLOOD Glucose-88 UreaN-21* Creat-0.9 Na-136 
K-3.9 Cl-103 HCO3-27 AnGap-10
___ 04:15PM BLOOD ALT-13 AST-22 AlkPhos-53 TotBili-0.4 
DirBili-0.1 IndBili-0.3
___ 08:30AM BLOOD Calcium-8.5 Phos-2.6* Mg-2.1
___ 04:15PM BLOOD calTIBC-351 Ferritn-5.0* TRF-270
___ 08:30AM BLOOD VitB12-506
___ 08:30AM BLOOD IgA-146
___ 08:30AM BLOOD tTG-IgA-3
.
CT ABDOMEN:  The lung bases are clear.  The visualized portions 
of the heart
and pericardium are unremarkable.  Several subcentimeter 
hypodensities
throughout the liver are too small to characterize (2:10).  The 
hepatic and
portal veins are patent.  The gallbladder, spleen, adrenals, and 
pancreas are
normal.  The kidneys enhance symmetrically and excrete contrast 
without
evidence of hydronephrosis or mass.  The stomach and small bowel 
are
unremarkable.  There is no portacaval, mesenteric, or 
retroperitoneal
lymphadenopathy.  There is no free air or free fluid.
 
CT PELVIS:  The appendix is not visualized.  The colon, rectum, 
seminal
vesicles, prostate, and urinary bladder are normal.  There is no 
pelvic
lymphadenopathy or free fluid.
 
OSSEOUS STRUCTURES:  There is no lytic or blastic lesion 
worrisome for
malignancy.
IMPRESSION:  No acute intra-abdominal process.
.
RUQ U/S: 

FINDINGS:
The liver is diffusely echogenic.  No focal liver lesions are 
detected.  The
main portal vein is patent with hepatopetal flow.  The 
gallbladder is normal
without evidence of stones.  There is no intra or extrahepatic 
biliary ductal
dilation.  The pancreas is unremarkable.  The spleen is normal 
in size
measuring 9.7 cm.  Visualized portions of the aorta and inferior 
vena cava are
unremarkable.  Single image of the right kidney demonstrates no 
right
hydronephrosis.
 
IMPRESSION:
No acute findings.  Echogenic liver, consistent with fatty 
infiltration.
However, other forms of liver disease including more advanced 
liver disease
such as significant hepatic fibrosis/cirrhosis cannot be 
excluded on this
study. 
.
EGD:
Normal mucosa in the whole esophagus
There was moderate mucosal edema at the pylorus that may 
represent acid reflux disease. There was no cause for the 
hematemesis and anemia identified.
Normal mucosa in the whole duodenum
Otherwise normal EGD to third part of the duodenum
 
Brief Hospital Course:
The patient is a ___ year old male with a history of 
schizophrenia who presents from home after an episode of 
vomiting with red blood in it found to have a new microcytic 
anemia. 
.
#CONCERN FOR GI BLEED / MICROCYTIC ANEMIA:   The patient 
reported an episode of emesis with blood in it prompting him to 
seek medical care.  During the hospitalization he had no further 
emesis. He had two bowel movements - one of which was saved and 
was dark, but not frank melana, and guaiac positive. His 
hematocrit was noted to be lower than baseline (23.4) requiring 
transfusion of one unit of blood with appropriate response to 
28.  Review of recent lab work over the past several months 
shows a new microcytic anemia.  Iron studies suggest iron 
deficiency with a low ferritin (5).  He was seen by GI.  He 
underwent an EGD that showed normal mucosa but no source of 
bleeding.  In the setting of a one year history of intermittent 
abdominal discomfort and on-going outpatient GI evaluation, a CT 
abdomen was obtained that showed no acute intra-abdominal 
process.  Testing for celiac disease was negative.  Testing for 
stool H. pylori was ordered but not obtained.  He was started on 
a  PPI.  He was started on iron supplementation.  Given his 
clinical stability, care was coordinated with GI with plan for 
outpatient colonoscopy and possibly capsule endoscopy if 
negative.  
.
#SCHIZOPHRENIA:  He was continued on his home dose of Abilify 
although declined to take the medication for most of his 
hospitalization. Speaking with his parents, he typically will 
take the medication for several days and feel better but then 
stop the medication for several days.  He was concerned that the 
Abilify was contributing to his abdominal pain.   He was 
instructed to take the medication with food to reduce the 
possibility of GI side effects.  Per his parents, he has been 
seeing his outpatient psychiatrist for some time and they have 
tried multiple different psychiatric medications at different 
doses but the Abilify seems to work the best.  He was seen by 
psychiatry during the hospitalization.  
.
#NUTRITION:   He endorsed (parents confirmed) about a 10 pound 
weight loss over the past several months.   
This seems to be due to restrictive dieting as he reported 
limiting dietary options, partly out of concern that it may be 
something he is eating that is contributing to his intermittent 
abdominal discomfort and nausea. He met with nutrition and 
recommendations were provided regarding food selection/diet.  He 
also questioned whether anxiety could be causing his symptoms of 
intermittent abdominal discomfort, nausea and reduced appetite.  
He was seen by Psychiatry and is planning to follow up with his 
outpatient psychiatrist.  He had no nausea, vomiting, or 
abdominal pain with eating during the hospitalization.   
.
#FEVER:  A temperature of 101 was recorded in his chart.  The 
temperature returned to ___ without intervention.  He 
reported feeling in good health without signs/symptoms of 
infection.  He was instructed to continue to monitor for new 
symptoms and call his PCP should he be concerned about anything 
new after dsicharge.  

TRANSITIONAL: 
-hematocrit check at ___ on ___ 
-GI to call patient to schedule colonoscopy and consider capsule 
endoscopy for further evaluation of GI blood loss. He also has 
follow up with GI in several weeks. 
-would recommend outpatient follow up with nutrition if 
available through PCP office 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aripiprazole 5 mg PO DAILY 

 
Discharge Medications:
1. Aripiprazole 5 mg PO DAILY 
2. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
3. Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule,delayed ___ by 
mouth daily Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute blood loss anemia
Upper GI bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to participate in your care. You were admitted 
with vomiting and concern for bleeding from your GI tract. You 
underwent an upper endoscopy that showed no source of bleeding. 
You had a CT scan of you abdomen that showed no structural 
abnormalities.  You will follow up with the GI specialists that 
you saw in the hospital for further evaluation. Your symptoms 
improved. 

You will need to have blood work checked on ___ to follow 
your blood counts. 
  
 
Followup Instructions:
___